US07521461B2
4-(2-Hydroxyethyl)phenol (2 g, 14.48 mmol) and methyl 2-(bromomethyl)benzoate (3.48 g, 15.20 mmol) were dissolved in acetonitrile (20 ml). Potassium carbonate anhydrous (4.0 g, 28.95 mmol) was added. After stirring at 60° C. for three hours PS-trisamine was added (0.2 eq) and the mixture was stirred overnight. The PS-trisamine was filtered off and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic layer was washed with 3 portions of water (3×10 ml). The organic phase was dried (MgSO4) and the solvent was removed by evaporation to give 3.732 g of methyl 2-{[4-(2-hydroxyethyl)phenoxy]methyl}benzoate (yield 90%).

reactant | 4-(2-Hydroxyethyl)phenol | 14.48 mmol, 2 g | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | methyl 2-(bromomethyl)benzoate | 15.20 mmol, 3.48 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | Potassium carbonate | 28.95 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 2-{[4-(2-hydroxyethyl)phenoxy]methyl}benzoate | 3.732 g, yield 90% | OCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C17H18O4
